US04725283
Preparation of 2,5-difluoro-4-nitro-N-benzenesulphonylaniline
To 310 ml of acetic acid diluted with 160 ml of water are added: 1.5 g of sodium nitrite, 0.16 mole (42 g) of 2,5-difluoro-N-benzenesulphonylaniline prepared in the previous stage and 0.94 mole (39 ml) of nitric acid (d=1.52). The reaction mixture is heated to 96° C. for 1 hour. After cooling it is poured onto 1 kg of ice and water. The expected product precipitates. After being filtered off and washed to neutrality it is recrystallized from 250 ml of acetic acid; it melts at 176° C.

reactant | acetic acid | 310 ml | C(C)(=O)O | C2H4O2
reactant | sodium nitrite | 1.5 g | N(=O)[O-].[Na+]
reactant | 2,5-difluoro-N-benzenesulphonylaniline | 0.16 mole, 42 g | FC1=C(NS(=O)(=O)C2=CC=CC=C2)C=C(C=C1)F | C12H9F2NO2S
reactant | nitric acid | 0.94 mole, 39 ml | [N+](=O)(O)[O-] | HNO3
solvent | water | 160 ml | O | H2O
product | 2,5-difluoro-4-nitro-N-benzenesulphonylaniline | FC1=C(NS(=O)(=O)C2=CC=CC=C2)C=C(C(=C1)[N+](=O)[O-])F | C12H8F2N2O4S
